US05670698
Yarboro, T. L.; Karr, C.; J. Org. Chem. 1959, 24, 1141 disclose a process wherein 1-bromo-2-methyl naphthalene is convened into 2-methyl-1-naphthalene boronic acid via Grignard reaction. The boronic acid is oxidized by 30% hydrogen peroxide to produce 2-methyl-1-naphthol in 51% yield. This prior art process is disadvantageous in that it involves 4 steps and is not economical.

reactant | 1-bromo-2-methyl naphthalene | BrC1=C(C=CC2=CC=CC=C12)C | C11H9Br
reactant | 2-methyl-1-naphthalene boronic acid | CC1=C(C2=CC=CC=C2C=C1)B(O)O | C11H11BO2
reactant | boronic acid | B(O)O | BH3O2
reactant | hydrogen peroxide | OO | H2O2
product | 2-methyl-1-naphthol | 51% yield | CC1=C(C2=CC=CC=C2C=C1)O | C11H10O
